US08420655B2
To a round bottom flask is added 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzoic acid hydrazide (310 mg, 0.8 mmol) in THF (4 mL), followed by the addition of triethylamine (2 mL) and CDI (390 mg, 2.405 mmol). The reaction mixture is stirred at room temperature for 18 hours. The reaction mixture is diluted with EtOAc/water. The organic layer is separated, washed with brine, dried under anhydrous Na2SO4, filtered and concentrated. The residue is purified by silica gel flash column chromatography with 0-5% MeOH/CH2Cl2 as the eluent to afford 5-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-3H-[1,3,4]oxadiazol-2-one (140 mg, 42%) as a light brown solid. LCMS (ESMS): m/z 413.07, 415.04 (M++1).

reactant | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzoic acid hydrazide | 0.8 mmol, 310 mg | BrC1=CC2=C(N(C(=N2)C2=C(C(=O)NN)C=CC=C2)C(C)(C)C)C=C1 | C18H19BrN4O
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | CDI | 2.405 mmol, 390 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc water | CCOC(=O)C.O
product | 5-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-3H-[1,3,4]oxadiazol-2-one | 140 mg, 42% | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NNC(O2)=O)C(C)(C)C)C=C1 | C19H17BrN4O2
